US07858630B2
Step 1: Oxetan-3-ylidene-acetic acid methyl ester
Oxetan-3-one (commercially available) (50 mg, 0.69 mmol) was solved in 1 ml dichloromethane and cooled to 0-5° C. (Methoxycarbonylmethylene) triphenylphosphorane (255 mg, 0.76 mmol) was added and the mixture stirred for 15 minutes. The mixture was directly purified with column chromatography on silica gel using heptane:ethyl acetate 100:0->0:100. The product fractions were concentrated to give 57 mg (64% yield) of a white solid.

reactant | Oxetan-3-one | O1CC(C1)=O | C3H4O2
reactant | (Methoxycarbonylmethylene) triphenylphosphorane | 0.76 mmol, 255 mg | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Oxetan-3-ylidene-acetic acid methyl ester | 57 mg, 64% yield | COC(C=C1COC1)=O | C6H8O3
